Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
Ms. ___ is a ___ yo F w/hx of CAD s/p MI, gout, hypothyroidism 
who presented to the ED with syncope.  She had seen her PCP 
today and was standing outside the office when she fainted. She 
first felt a feeling of regurgitation and a bitter taste in her 
mouth, then felt lightheaded and then passed out.She awoke and 
vomited once.  Her pulse was found to be in the ___ and she was 
brought to the ED. The same type of incident occured a few years 
ago but she does not remember what hospital she was admitted to. 
She takes atenolol, however it makes her dizzy and she is 
inconsistent with taking it.She denies any recent medication 
changes. She does say she has been more fatigued in the last ___ 
weeks.
 She was passed out for a few minutes and as per witness reports 
she did not shake, bite her tongue, experience fecal/urinary 
incontinence or experience any motor/sensory abnormalities after 
waking up.She denies any associated chest pain, palpitations, or 
headache. She feels like her exercise tolerance has improved in 
the last couple of months and denies any chest pain or abnormal 
shortness of breath on exertion.  
.  
On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, She someitimes has left upper back and left arm 
pain but says it is related to her gout, cough, hemoptysis, 
black stools or red stools. She denies recent fevers, chills or 
rigors. She denies exertional buttock or calf pain. All of the 
other review of systems were negative.  
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  
.  
In the ED, initial vitals were 97.5 37 120/66 16 99%. She 
triggered on arrival for bradycardia of 37.  She was 
asymptomatic and normotensive.  Pacer pads were placed but not 
used.  She was not given Atropine.  She underwent head CT which 
was normal and CXR which was normal.  Vitals prior to transfer: 
afebrile HR 44 BP 102/54 RR 13 99% RA.

 
Past Medical History:
PAST MEDICAL HISTORY:  
1. CARDIAC RISK FACTORS:HTN  
2. CARDIAC HISTORY: Catherization ___ years ago at the ___, 
according to patient she was told it was normal and nothing was 
done.    
3. OTHER PAST MEDICAL HISTORY:
Gout
Hypothyroidism 
CAD
HLD   
.  

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
 
Physical Exam:
VS: T=97.4 BP=127/71 HR=44 RR=18 O2 sat=96% RA   
GENERAL: WDWN female in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple, non elevated JVP  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, soft S1, S2. No m/r/g. No thrills, lifts. No S3 or S4. 
 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

 
Pertinent Results:
Admission Labs 

___ 03:00PM   GLUCOSE-124* UREA N-14 CREAT-0.6 SODIUM-140 
POTASSIUM-3.8 CHLORIDE-100 TOTAL CO2-29 ANION GAP-15
___ 03:00PM   estGFR-Using this
___ 03:00PM   cTropnT-< 0.01
___ 03:00PM   CALCIUM-9.3 PHOSPHATE-2.7 MAGNESIUM-2.2
___ 03:00PM   TSH-2.6
___ 03:00PM   WBC-10.5 RBC-4.22 HGB-13.0 HCT-37.7 MCV-89 
MCH-30.9 MCHC-34.6 RDW-14.2
___ 03:00PM   NEUTS-81.8* LYMPHS-12.0* MONOS-4.1 EOS-1.4 
BASOS-0.6
___ 03:00PM   PLT COUNT-307
.
Discharge Labs 

___ 07:15AM BLOOD WBC-6.9 RBC-4.22 Hgb-12.6 Hct-38.0 MCV-90 
MCH-29.9 MCHC-33.2 RDW-14.3 Plt ___
___ 03:00PM BLOOD WBC-10.5 RBC-4.22 Hgb-13.0 Hct-37.7 
MCV-89 MCH-30.9 MCHC-34.6 RDW-14.2 Plt ___
___ 03:00PM BLOOD Neuts-81.8* Lymphs-12.0* Monos-4.1 
Eos-1.4 Baso-0.6
___ 07:15AM BLOOD Plt ___
___ 03:00PM BLOOD Plt ___
___ 07:15AM BLOOD Glucose-94 UreaN-12 Creat-0.6 Na-143 
K-3.3 Cl-104 HCO3-32 AnGap-10
___ 03:00PM BLOOD estGFR-Using this
___ 03:00PM BLOOD cTropnT-< 0.01
___ 07:15AM BLOOD Calcium-9.2 Phos-3.6 Mg-2.2
___ 03:00PM BLOOD Calcium-9.3 Phos-2.7 Mg-2.2
___ 03:00PM BLOOD TSH-2.6
.
Reports 
CHEST (PORTABLE AP)   Clip # ___   
Reason: eval for infiltrate  
 

 
UNDERLYING MEDICAL CONDITION: 
   ___ year old woman with bradycardia  
REASON FOR THIS EXAMINATION: 
   eval for infiltrate  

 
 
Final Report 
HISTORY: Bradycardia, evaluate for bradycardia. 
  
COMPARISON: ___. 
  
CHEST, SINGLE AP VIEW: The heart is top normal in size, with a 
mildly 
tortuous aorta. The lungs are clear without consolidation or 
edema. No 
pleural effusion or pneumothorax is identified. 
  
IMPRESSION: No acute cardiopulmonary abnormality. 
  
The study and the report were reviewed by the staff radiologist. 

  
 
.
CT HEAD W/O CONTRAST   Clip # ___   
Reason: eval for ICH  
 

 
UNDERLYING MEDICAL CONDITION: 
   ___ year old woman with syncope  
REASON FOR THIS EXAMINATION: 
   eval for ICH  
CONTRAINDICATIONS FOR IV CONTRAST: 
   None. 

 
 
Provisional Findings Impression: ___ WED ___ 6:02 ___ 
No acute intracranial process. 

 
Final Report 
HISTORY: ___ female with syncope. Question intracranial 
hemorrhage. 
  
COMPARISON: None. 
  
TECHNIQUE: Contiguous axial images through the brain were 
acquired without 
intravenous contrast. 
  
FINDINGS: The gray-white matter differentiation is preserved. 
There is no 
evidence of hemorrhage, mass, mass effect, shift of midline 
structures, or  
infarction. The ventricles and sulci are normal in size and 
configuration.  
Periventricular hypodensity adjacent to the frontal horn of the 
right lateral 
ventricle likely represents the sequelae of chronic ischemic 
microvascular 
disease. The calvarium is intact. The visualized paranasal 
sinuses are 
clear. Mild atherosclerotic calcification is noted within the 
cavernous 
carotid arteries bilaterally. 
  
IMPRESSION: 
  
No acute intracranial process. 
 

 
Brief Hospital Course:
Ms. ___ is a ___ yo F w/hx of CAD s/p MI, gout, hypothyroidism 
who presented to the ED with syncope and bradycardia in the 
___.
.  
#Syncope- The patient experienced some reflux of the food she 
had eaten and then felt lightheaded and passed out. She was 
found to have sinus bradycardia on presentation to the E.D. High 
on the differential is symptomatic bradycardia causing 
syncope.Per the patient she has a history of 1 episode of low HR 
causing her to past out a few years ago. The last EKG we have of 
her is in ___ when she was NSR in the ___. She denies having 
palpitations or experiencing lightheadedness on a regular basis, 
however she does say her atenolol makes her lightheaded. 
Vasovagal syncope given regurgitation of her food, and perhaps 
increased abdominal pressure, before passing out was also high 
on the differential. She also has a hx. of hypothyroidism which 
can cause bradycardia. Lower on the differential was seizure 
because of no typical clincial symptoms and PE because she 
denied any SOB and was never found to be tachycardic. Her heart 
rate was in the 40's and the tele showed sinus bradycardia. She 
was asymptomatic.However of note she does say she has been more 
fatigued than usual in the last week or two. We monitored on 
tele.-sinus bradycardia on ___-50.Held nodal blocking agents 
including atenolol and amlodipine during the admission and on 
discharge.She was hemodynamically stable.Checked TSH-2.6.Walked 
the patient and see if her heart rate increases above 60/minand 
####.Restarted HCTZ home dose on discharge, however will 
discontinue atenolol and amlodipine given baseline bradycardia 
and controlled hypertension with systolic blood pressures from 
100-110.Will need reassessment of blood pressure medications as 
outpatient.
.  
# Hypothyroidism- Continued home dose synthroid .Checked TSH-2.6 

.   
#Gout- Was not active, had no joint pains.Held colchicine  given 
no clinically active disease. Continued Allopurinol home dose   
.  
# HTN -Was not hypertensive during the admission, SBP's running 
in the 100- 120's 
Her atenolol was discontinued given her baseline bradycardia and 
her amlodipine was disconinued given her low blood pressures. 
She was discharged only on her home dose 25mg/day 
Hydrochlorthiazide. She will need outpatient follow up for 
titration of blood pressure medications.
_
_
_
_
_
_
_
_
_
_
_
_
_
_
_
_
_
_
_
_
________________________________________________________________
Outpatient follow up 
-Patient's Blood pressure on admission was between 
105-130/60-80. Her atenolol was discontinued given her baseline 
bradycardia and her amlodipine was disconinued given her low 
blood pressures. She was discharged only on her home dose 
25mg/day Hydrochlorthiazide. She will need outpatient follow up 
for titration of blood pressure medications.
-Please consider outpatient cardiac stress test 
 
Medications on Admission:
Atenolol 50mg PO daily 
Levothyroxine 100 mcg Tab Oral daily
Hydrochlorothiazide 25 mg Tab Oral daily 
Amlodipine 10 mg Tab Oral daily
Crestor 20 mg Tab Oral daily
Allopurinol ___ mg Tab Oral daily
Colchicine 0.6 mg Tab Oral daily
.  

 
Discharge Medications:
1. Rosuvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Allopurinol ___ mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
3. Hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).  
4. Levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bradycardia
Syncope
.
Secondary Diagnosis 
HTN 
Hypothyroidism 
Gout  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure to care for you as your doctor.
.
You were brought to the hospital because of losing consciousness 
and low heart rate. We carried out several exams and decided you 
needed no intervention at this time. You probably passed out 
because of low heart rate and a natural response to reflux of 
food called vagal response. 
.
We have discontinued some of your blood pressure medications on 
this admission because your blood pressures were well 
controlled. Please take your blood pressures at home and contact 
your primary care physician on future management of your blood 
pressure.
.
We made the following changes to your home medication list: 
STOP Atenolol due to low heart rate
STOP Amlodipine due to low blood pressure

Please talk to your primary doctor next week regarding your 
blood pressure and your medications. 

We continued the rest of your medications you were taking before 
being admitted to the hospital.

Please follow up with the outpatient appointments below: 
 
Followup Instructions:
___